* FILE: MMI_BUFB.sp


* SPICE netlist for "MMI_BUFB" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_BUFB in out 
M_0 out N1 vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_1 out N1 gnd gnd n W='.92*1u' L=ln_min ad='arean(.92,sdd)' 
+ as='arean(.92,sdd)' pd='perin(.92,sdd)' ps='perin(.92,sdd)' 
M_2 N1 in gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)' 
M_3 N1 in vdd vdd p W='.92*1u' L=lp_min ad='areap(.92,sdd)' 
+ as='areap(.92,sdd)' pd='perip(.92,sdd)' ps='perip(.92,sdd)' 
.ENDS	$ MMI_BUFB

.GLOBAL gnd vdd

