* FILE: MMI_BUFD.sp


* SPICE netlist for "MMI_BUFD" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_BUFD in out 
M_0 out N1 vdd vdd p W='7.36*1u' L=lp_min ad='areap(7.36,sdd)' 
+ as='areap(7.36,sdd)' pd='perip(7.36,sdd)' ps='perip(7.36,sdd)' 
M_1 out N1 gnd gnd n W='3.68*1u' L=ln_min ad='arean(3.68,sdd)' 
+ as='arean(3.68,sdd)' pd='perin(3.68,sdd)' ps='perin(3.68,sdd)' 
M_2 N1 in vdd vdd p W='2.48*1u' L=lp_min ad='areap(2.48,sdd)' 
+ as='areap(2.48,sdd)' pd='perip(2.48,sdd)' ps='perip(2.48,sdd)' 
M_3 N1 in gnd gnd n W='1.24*1u' L=ln_min ad='arean(1.24,sdd)' 
+ as='arean(1.24,sdd)' pd='perin(1.24,sdd)' ps='perin(1.24,sdd)' 
.ENDS	$ MMI_BUFD

.GLOBAL gnd vdd

