* FILE: MMI_INAND2A.sp


* SPICE netlist for "MMI_INAND2A" (generated by MMI_SUE4.1.5)

.SUBCKT nand2 in0 in1 out WP=2 WN=2
M_0 out in0 vdd vdd p W='WP*1u' L=lp_min ad='areap(WP,sdd)' 
+ as='areap(WP,sdd)' pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
M_1 out in0 net_1 gnd n W='WN*1u' L=ln_min ad='arean(WN,sdd)' 
+ as='arean(WN,sdd)' pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_2 out in1 vdd vdd p W='WP*1u' L=lp_min ad='areap(WP,sdd)' 
+ as='areap(WP,sdd)' pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
M_3 net_1 in1 gnd gnd n W='WN*1u' L=ln_min ad='arean(WN,sdd)' 
+ as='arean(WN,sdd)' pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
.ENDS	$ nand2

.SUBCKT inverter in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter

.SUBCKT MMI_INAND2A in0 in1 out 
Xnand2 in1_L in0 out nand2 WP=.92 WN=.92
Xinverter in1 in1_L inverter WP=.92 WN=0.46
.ENDS	$ MMI_INAND2A

.GLOBAL gnd vdd

