* FILE: MMI_INAND2C.sp


* SPICE netlist for "MMI_INAND2C" (generated by MMI_SUE4.1.5)

.SUBCKT inverter in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter

.SUBCKT MMI_INAND2C in0 in1 out 
M_0 out in1_L vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)' 
M_1 out in0 vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)' 
M_2 out in1_L net_1 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_3 out in1_L net_2 gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_4 net_2 in0 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_5 net_1 in0 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
Xinverter in1 in1_L inverter WP=1.84 WN=.92
.ENDS	$ MMI_INAND2C

.GLOBAL gnd vdd

