* FILE: MMI_INVC.sp


* SPICE netlist for "MMI_INVC" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_INVC in out 
M_0 out in gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
M_1 out in vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)' 
.ENDS	$ MMI_INVC

.GLOBAL gnd vdd

