* FILE: MMI_INVE.sp


* SPICE netlist for "MMI_INVE" (generated by MMI_SUE4.1.5)

.SUBCKT MMI_INVE in out 
M_0 out in gnd gnd n W='7.36*1u' L=ln_min ad='arean(7.36,sdd)' 
+ as='arean(7.36,sdd)' pd='perin(7.36,sdd)' ps='perin(7.36,sdd)' 
M_1 out in vdd vdd p W='14.72*1u' L=lp_min ad='areap(14.72,sdd)' 
+ as='areap(14.72,sdd)' pd='perip(14.72,sdd)' ps='perip(14.72,sdd)' 
.ENDS	$ MMI_INVE

.GLOBAL gnd vdd

