* FILE: MMI_LTCHPB.sp


* SPICE netlist for "MMI_LTCHPB" (generated by MMI_SUE4.1.5)

.SUBCKT xgate in in_L t1 t2 WP=2 WN=1
M_0 t2 in_L t1 vdd p W='WP*1u' L=lp_min ad='areap(WP,sdd)' 
+ as='areap(WP,sdd)' pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
M_1 t2 in t1 gnd n W='WN*1u' L=ln_min ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
.ENDS	$ xgate

.SUBCKT inverter in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter

.SUBCKT MMI_LTCHPB clk d q 
Xxgate clk clk_L N1 N2 xgate WP=1.84 WN=0.92
Xinverter d N1 inverter WP=1.84 WN=0.92
M_0 net_1 N5 gnd gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)' 
M_1 N2 clk net_2 vdd p W='0.42*1u' L=lp_min ad='areap(0.42,sdd)' 
+ as='areap(0.42,sdd)' pd='perip(0.42,sdd)' ps='perip(0.42,sdd)' 
M_2 net_2 N5 vdd vdd p W='0.42*1u' L=lp_min ad='areap(0.42,sdd)' 
+ as='areap(0.42,sdd)' pd='perip(0.42,sdd)' ps='perip(0.42,sdd)' 
M_3 N2 clk_L net_1 gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)' 
Xinverter_1 clk clk_L inverter WP=0.92 WN=0.46
Xinverter_2 N2 q inverter WP=1.84 WN=0.92
Xinverter_3 N2 N5 inverter WP=0.92 WN=0.46
.ENDS	$ MMI_LTCHPB

.GLOBAL gnd vdd

